US05264438
A mixture of 4-methoxycarbonyl-3-nitrobenzoic acid (2.25 g), 1M borane in tetrahydrofuran solution (50 ml) and dry tetrahydrofuran (45 ml) was stirred at room temperature for 48 hours. To this mixture, methanol (2 ml) and 1N hydrochloric acid (10 ml) were added and then the solvents were evaporated off. The crude residue was taken up with ethyl acetate, washed in turn with water and sat. sodium bicarbonate solution, dried over magnesium sulfate and evaporated to give an oil which was chromatographed on silica gel. Elution with toluene-chloroform (1:1) gave methyl 4-hydroxymethyl-2-nitrobenzoate (1.85 g).

reactant | 4-methoxycarbonyl-3-nitrobenzoic acid | 2.25 g | COC(=O)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H7NO6
reactant | borane | 1M | B | BH3
reactant | methanol | 2 ml | CO | CH4O
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | methyl 4-hydroxymethyl-2-nitrobenzoate | 1.85 g | OCC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO5
